US07405221B2
2-Methylthio-5-(4-chlorophenyl)-4-(2,4-dichlorophenyl)pyrimidine from Reference Example 3 was reacted with 3-pyridinemethanol according to the procedure described in Example 59 to afford 2-(3-pyridylmethoxy)-4-(2,4-dichlorophenyl)-5-(4-chlorophenyl)pyrimidine (HRf): HPLC/MS: m/e=442 (M++1); Rt=3.01 min; 1H-NMR 500 MHz (CDCl3): δ 5.61 (s, 2H), 7.05 (d, J=9 Hz, 2H), 7.15-7.22 (m, 1H), 7.24-7.32 (m, 4H), 7.50-7.58 (m, 1H), 7.60 (m, 1H), 7.62-7.63 (m, 1H), 8.45 (m, 1H), 8.83 (s, 1H).

reactant | 2-Methylthio-5-(4-chlorophenyl)-4-(2,4-dichlorophenyl)pyrimidine | CSC1=NC=C(C(=N1)C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)Cl | C17H11Cl3N2S
reactant | 3-pyridinemethanol | N1=CC(=CC=C1)CO | C6H7NO
product | 2-(3-pyridylmethoxy)-4-(2,4-dichlorophenyl)-5-(4-chlorophenyl)pyrimidine | N1=CC(=CC=C1)COC1=NC=C(C(=N1)C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)Cl | C22H14Cl3N3O
